US05782934
1-(4-hydroxyphenylazo)-2-methoxy-4-(4-fluorosulphonylphenylazo)benzene;
1-(2-chloro-4-nitrophenylazo)-5-methyl-2-fluorosulphonyl-4-(2-hydroxy-3-(carbonyl (N-phenyl) amino) naphth-1-ylazo) benzene; 1-(2-methyl-5-fluorosulphonylphenylazo)-3-ethoxy-4-(2-hydroxy-3-(carbonyl (N-phenyl) amino) naphth-1-ylazo) benzene; 1-(3-fluorosulphonylphenylazo)-2,5-dimethoxy-4-(2-hydroxy-3-(carbonyl(N-naphth-1-yl)amino)naphth-1-ylazo)benzene; and 1-(2-methyl-5-fluorosulphonylphenylazo)-4-(2-hydroxy-3-(carbonyl(N-phenyl)amino)naphth-1-ylazo)naphthalene and these form a further feature of the present invention.

reactant | 1-(2-chloro-4-nitrophenylazo)-5-methyl-2-fluorosulphonyl-4-(2-hydroxy-3-(carbonyl (N-phenyl) amino) naphth-1-ylazo) benzene | ClC1=C(C=CC(=C1)[N+](=O)[O-])N=NC1=C(C=C(C(=C1)C)N=NC1=C(C(=CC2=CC=CC=C12)NC1C(C=CC=C1)=C=O)O)S(=O)(=O)F | C30H20ClFN6O6S
reactant | 1-(2-methyl-5-fluorosulphonylphenylazo)-3-ethoxy-4-(2-hydroxy-3-(carbonyl (N-phenyl) amino) naphth-1-ylazo) benzene | CC1=C(C=C(C=C1)S(=O)(=O)F)N=NC1=CC(=C(C=C1)N=NC1=C(C(=CC2=CC=CC=C12)NC1C(C=CC=C1)=C=O)O)OCC | C32H26FN5O5S
reactant | 1-(3-fluorosulphonylphenylazo)-2,5-dimethoxy-4-(2-hydroxy-3-(carbonyl(N-naphth-1-yl)amino)naphth-1-ylazo)benzene | FS(=O)(=O)C=1C=C(C=CC1)N=NC1=C(C=C(C(=C1)OC)N=NC1=C(C(=CC2=CC=CC=C12)NC1C(C=CC2=CC=CC=C12)=C=O)O)OC | C35H26FN5O6S
reactant | 1-(2-methyl-5-fluorosulphonylphenylazo)-4-(2-hydroxy-3-(carbonyl(N-phenyl)amino)naphth-1-ylazo)naphthalene | CC1=C(C=C(C=C1)S(=O)(=O)F)N=NC1=CC=C(C2=CC=CC=C12)N=NC1=C(C(=CC2=CC=CC=C12)NC1C(C=CC=C1)=C=O)O | C34H24FN5O4S
product | 1-(4-hydroxyphenylazo)-2-methoxy-4-(4-fluorosulphonylphenylazo)benzene | OC1=CC=C(C=C1)N=NC1=C(C=C(C=C1)N=NC1=CC=C(C=C1)S(=O)(=O)F)OC | C19H15FN4O4S
